US04728592
Titanium tetrachloride (18 g) and phthalodinitrile (40 g) were agitated in α-chloronaphthalene (500 ml) at 240°-250° C. under a nitrogen stream. After completion of the reaction, the product dichlorotitanium phthalocyanine was recovered by filtration. The recovered dichlorotitanium phthalocyanine was heated under reflux for 1 hour together with concentrated aqueous ammonia (300 ml) and pyridine (300 ml) so as to obtain the end compound, α-type titanyl phthalocyanine (18 g). This compound was thoroughly washed in a Soxhlet extractor first with N,N-dimethylformamide, then with acetone.

reactant | phthalodinitrile | 40 g | C1=CC=C(C(=C1)C#N)C#N | C8H4N2
solvent | α-chloronaphthalene | 500 ml | ClC1=CC=CC2=CC=CC=C12 | C10H7Cl
catalyst | Titanium tetrachloride | 18 g | [Ti](Cl)(Cl)(Cl)Cl
product | phthalocyanine | 18 g | C=1C=CC=2C(C1)=C3NC2N=C4C=5C=CC=CC5C(=N4)N=C6C=7C=CC=CC7C(N6)=NC=8C=9C=CC=CC9C(=N3)N8 | C32H18N8
